### PR TITLE
[Merged by Bors] - feat: Add codeaction and widget to success_if_fail_with_msg tactic

### PR DESCRIPTION
**Pull request by edegeltje**
make the `success_if_fail_with_msg` tactic give a codeaction when the tactics given fail with a different error, to update the expected error message.

example:
```lean4
example : Nat → Nat → True := by
  success_if_fail_with_msg "no goals" -- Update with tactic error message: "no goals to be solved"
    intro
    intro
    trivial
    trivial
  intros; trivial
```

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by kim-em** [comment]
Please add the example from the PR description as a new test.

**Comment by kim-em** [comment]
The `large-import` label is fine to ignore for this PR.

**Comment by edegeltje** [comment]
i added a test using `#guard_msgs` to check if there is an info message suggesting the replacement. however, i don't know if there is a way to verify the *codeaction*.

File: Mathlib/Tactic/SuccessIfFailWithMsg.lean [hunk 1]
```diff
@@ -29,15 +30,19 @@ syntax (name := successIfFailWithMsg) "success_if_fail_with_msg " term:max tacti
 /-- Evaluates `tacs` and succeeds only if `tacs` both fails and throws an error equal (as a string)
 to `msg`. -/
 def successIfFailWithMessage {s α : Type} {m : Type → Type}
-    [Monad m] [MonadLiftT BaseIO m] [MonadBacktrack s m] [MonadError m]
-    (msg : String) (tacs : m α) (ref : Option Syntax := none) : m Unit := do
+    [Monad m] [MonadLiftT BaseIO m] [MonadLiftT MetaM m] [MonadBacktrack s m] [MonadError m]
+    (msg : String) (tacs : m α) (msgref : Syntax) (ref : Option Syntax := none) : m Unit := do
```
Comment (kim-em) [inline Mathlib/Tactic/SuccessIfFailWithMsg.lean:34]: Can we make the `msgref` argument optional?

File: MathlibTest/success_if_fail_with_msg.lean [hunk 2]
```diff
@@ -52,7 +74,7 @@ open Lean Meta Mathlib Tactic
 def alwaysFails : MetaM Unit := do throwError "I failed!"
 
 def doesntFail : MetaM Unit := do
-  try successIfFailWithMessage "I failed!" alwaysFails
+  try successIfFailWithMessage "I failed!" alwaysFails (← `("I failed!"))
```
Comment (kim-em) [inline MathlibTest/success_if_fail_with_msg.lean:77]: Now that `msgref` is optional, should it be removed here?

**Comment by kim-em** [comment]
bors d+
